US05310929
Part H: Preparation of 4-Ethyl-2-propyl-1-[[2'-(N-triphenylmethyl(tetrazol-5-yl))biphenyl-4-yl]methyl]imidazole-5-carboxylic acid
A mixture of 7.5 g of 4-ethyl-2-propyl-1-[[2'-(tetrazol-5-yl)biphenyl-4-yl]methyl]imidazole-5-carboxylic acid, 5.17 g trityl chloride and 1.92 g triethylamine in 50 mL CH2Cl2 is stirred overnight. After water addition and acidification with 1N HCl to pH 3, the mixture was separated and the organic phase was extracted with CH2Cl2/ ethyl acetate (1:1). The mixture was dried with Na2SO4, suction filtered and the solvent evaporated. 6.46 g of product was obtained after flash chromatography with ethyl acetate.

reactant | 4-ethyl-2-propyl-1-[[2'-(tetrazol-5-yl)biphenyl-4-yl]methyl]imidazole-5-carboxylic acid | 7.5 g | C(C)C=1N=C(N(C1C(=O)O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)CCC | C23H24N6O2
reactant | trityl chloride | 5.17 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | triethylamine | 1.92 g | C(C)N(CC)CC | C6H15N
reactant | HCl | 1N | Cl | ClH
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 4-Ethyl-2-propyl-1-[[2'-(N-triphenylmethyl(tetrazol-5-yl))biphenyl-4-yl]methyl]imidazole-5-carboxylic acid | 6.46 g | C(C)C=1N=C(N(C1C(=O)O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCC | C42H38N6O2
